US08937092B2
To a stirred solution of ethyl 2-(4-amino-3-methylphenyl)propanoate (944 mg, 4.55 mmol) in acetonitrile, p-TsOH.H2O (2.62 g, 13.66 mmol) was dropped slowly. The reaction mixture was activated for 10 min. Then NaNO2 (629 mg, 9.11 mmol) in water was added dropwise. The mixture was stirred for 10 min. Then potassium iodide (1.89 g, 11.39 mmol) in water was added slowly dropwise. The reaction mixture was stirred at room temperature for 4 h. After the reaction is complete, 1M NaOH solution was added to neutralize the reaction then ethyl acetate and water was used for work up. The organic layer was washed with water two times, then dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. Ethyl 2-(4-iodo-3-methylphenyl)propanoate (1.22 g) was obtained as 84% yield.

reactant | ethyl 2-(4-amino-3-methylphenyl)propanoate | 4.55 mmol, 944 mg | NC1=C(C=C(C=C1)C(C(=O)OCC)C)C | C12H17NO2
reactant | p-TsOH.H2O | 13.66 mmol, 2.62 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | NaNO2 | 9.11 mmol, 629 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 11.39 mmol, 1.89 g | [I-].[K+]
reactant | NaOH | 1M | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(4-iodo-3-methylphenyl)propanoate | 1.22 g, 84% yield | IC1=C(C=C(C=C1)C(C(=O)OCC)C)C | C12H15IO2
